US07105544B2
N-(3-{4-[3-(BUTYRYLAMINO)-4-FLUOROPHENYL]-1-PIPERIDINYL}PROPYL)-1-(4-FLUOROPHENYL)CYCLOPENTANECARBOXAMIDE
Example 107 was prepared from 1-(4-fluorophenyl)cyclopentanecarboxylic acid and N-{5-[1-(3-aminopropyl)-4-piperidinyl]-2-fluorophenyl}butanamide according to the procedures described in Scheme 10: 1H NMR (400 MHz, CDCl3) δ 8.30–8.13 (m, 1H), 8.09–7.95 (br, 1H), 7.47–7.26 (m, 3H), 7.08–6.87 (m, 3H), 6.75–6.54 (br, 1H), 3.30–3.07 (m, 4H), 2.59–2.44 (m, 3H), 2.44–2.33 (m, 2H), 2.33–2.19 (m, 2H), 1.99–1.69 (m, 16H), 1.02 (t, 3H, J=7.2 Hz); ESMS m/e: 512.3 (M+H)+.

reactant | 1-(4-fluorophenyl)cyclopentanecarboxylic acid | FC1=CC=C(C=C1)C1(CCCC1)C(=O)O | C12H13FO2
reactant | N-{5-[1-(3-aminopropyl)-4-piperidinyl]-2-fluorophenyl}butanamide | NCCCN1CCC(CC1)C=1C=CC(=C(C1)NC(CCC)=O)F | C18H28FN3O
product | N-(3-{4-[3-(BUTYRYLAMINO)-4-FLUOROPHENYL]-1-PIPERIDINYL}PROPYL)-1-(4-FLUOROPHENYL)CYCLOPENTANECARBOXAMIDE | C(CCC)(=O)NC=1C=C(C=CC1F)C1CCN(CC1)CCCNC(=O)C1(CCCC1)C1=CC=C(C=C1)F | C30H39F2N3O2
